US06831190B1
2.25 g of methanol solution including 28% sodium methylate was added to 2.50 g of 4-(4-hydroxyphenyl)benzoic acid suspended in 10 ml of methanol. After the mixture was stirred for 5 minutes, it was concentrated under reduced pressure. 10 ml of N,N-dimethylformamido and 2.43 g of benzyl-bromoamide were added to the residue. The mixture was stirred during night at room temperature and poured into 30 ml of ice water, and extracted with 50 ml of toluene. The organic layer was washed with in order saturated sodium hydrogen and water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. Obtained crude crystals were purified by silica gel column chromatography with toluene-ethyl acetate eluent, and hexane was added to them. Precipitated crystals were collected by filtration, and washed with hexane. 4-(4-hydroxyphenyl)benzoate benzylester 2.60 g was obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | 4-(4-hydroxyphenyl)benzoic acid | 2.50 g | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 2.25 g | CO | CH4O
product | 4-(4-hydroxyphenyl)benzoate benzylester | 2.60 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)O)=O | C20H16O3
